US05055477
To a 15 ml solution of ethyl 4-benzyloxy-1,3- dimethylpyrazol-5-carboxylate (2.5 g, 9.1 mmol) in anhydrous tetrahydrofuran (hereinafter, referred to as THF) was added lithium aluminium hydride (0.2 g, 5.3 mmol) under ice-cooling. After stirring at room temperature for one hour, the reaction mixture was poured into water. The mixture was extracted with ethyl acetate, and the extract was successively washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated in vacuo. To the residue (2 g) was added toluene (5 ml) and thionyl chloride (2 g) and the resulting mixture was heated under reflux for one hour. After low boiling substances were evaporated, the residue was combined with ethyl acetate. The mixture was successively washed with, water, aquaous sodium bicarbonate, water, and saturated brine, dried over anhydrous sodium sulfate and concentrated in vacuo. To a 5 ml solution of the residue in dimethyl sulfoxide (hereinafter, referred to as DMSO) was added sodium cyanide (0.43 g, 8.8 mmol) and the mixture was stirred at room temperature and left to stand overnight. The reaction mixture was poured into water. The mixture was extracted with ethyl acetate, and the extract was successively washed with water, and saturated brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was chromatographed over silica gel (eluent; ethyl acetate/n-hexane=1:2) to obtain (4-benzyloxy-1,3- dimethylpyrazol-5-yl) acetonitrile (1.6 g, 6.6 mmol, 73 %).

reactant | ethyl 4-benzyloxy-1,3- dimethylpyrazol-5-carboxylate | 9.1 mmol, 2.5 g | C(C1=CC=CC=C1)OC=1C(=NN(C1C(=O)OCC)C)C | C15H18N2O3
reactant | lithium aluminium hydride | 5.3 mmol, 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium cyanide | 8.8 mmol, 0.43 g | [C-]#N.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4-benzyloxy-1,3- dimethylpyrazol-5-yl) acetonitrile | 6.6 mmol, 1.6 g, 73 % | C(C1=CC=CC=C1)OC=1C(=NN(C1CC#N)C)C | C14H15N3O
